US07790720B2
A cold (−20° C.) solution of anhydrous trimethylamine N-oxide (2.10 g, 27.96 mmol) in a dry mixture of dichloromethane and dimethylsulfoxide (20 ml, 1/3 v/v) is treated with a solution of 4-chloromethyl-2-[4-(3-chloro-propoxy)-phenyl]-oxazole ax57 (2.00 g, 6.99 mmol) in the same mixture of solvents (20 ml). The mixture is then allowed to warm up to 20° C. and is stirred at that temperature for 24 h. The dark mixture is then poured into water (50 ml) and extracted with dichloromethane. The organic phases are concentrated and the resulting DMSO solution is treated with ether and water. The heterogeneous mixture is further extracted with ether (2×20 ml). The organic phases are then dried over magnesium sulfate and concentrated to afford 760 mg of 2-[4-(3-chloro-propoxy)-phenyl]-oxazole-4-carbaldehyde i100.

reactant | trimethylamine N-oxide | 27.96 mmol, 2.10 g | C[N+](C)(C)[O-] | C3H9NO
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
reactant | 4-chloromethyl-2-[4-(3-chloro-propoxy)-phenyl]-oxazole | ClCC=1N=C(OC1)C1=CC=C(C=C1)OCCCCl | C13H13Cl2NO2
solvent | water | 50 ml | O | H2O
product | 2-[4-(3-chloro-propoxy)-phenyl]-oxazole-4-carbaldehyde | 760 mg, Yield: 41% | ClCCCOC1=CC=C(C=C1)C=1OC=C(N1)C=O | C13H12ClNO3
